US04381301
1.9 g of 4-chloroacetyl-9,10-dihydro-4H-thieno[3,4-b][1,5]benzodiazepin-10-one, 3.7 g of piperidine and 15 ml of dioxane are stirred at 80° C. for 1 hour; the resulting mixture is concentrated in vacuo, and the obtained residue is recrystallized from isopropanol/water. 2.0 g of 9,10-dihydro-4-(piperidinoacetyl)-4H-thieno[3,4-b][1,5]benzodiazepin-10-one are thus obtained.

reactant | 4-chloroacetyl-9,10-dihydro-4H-thieno[3,4-b][1,5]benzodiazepin-10-one | 1.9 g | ClCC(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C13H9ClN2O2S
reactant | piperidine | 3.7 g | N1CCCCC1 | C5H11N
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 9,10-dihydro-4-(piperidinoacetyl)-4H-thieno[3,4-b][1,5]benzodiazepin-10-one | 2.0 g | N1(CCCCC1)CC(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C18H19N3O2S
